US05442063
Acetone (5 ml), 85% potassium hydroxide (powder)(0.40 g, 6 mmol) and butyl nitrite (0.62 g, 6 mmol) were added to 2-(2-methylphenoxymethyl)benzyl cyanide (1.19 g, 5 mmol). The mixture was stirred at room temperature for 1 hour. After completion of the reaction, 1N aqueous hydrochloric acid solution (100 ml) was added. The mixture was extracted with toluene (100 ml), dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The resulting residue was purified by silica gel chromtography (ethyl acetate/n-hexane/chloroform) to give α-hydroxyimino-2-(2-methylphenoxymethyl)benzyl cyanide (1.23 g, Yield: 92.4%, E/Z=35/65) as colorless crystals.

reactant | potassium hydroxide | 6 mmol, 0.40 g | [OH-].[K+]
reactant | butyl nitrite | 6 mmol, 0.62 g | N(=O)OCCCC | C4H9NO2
reactant | 2-(2-methylphenoxymethyl)benzyl cyanide | 5 mmol, 1.19 g | CC1=C(OCC2=C(CC#N)C=CC=C2)C=CC=C1 | C16H15NO
reactant | hydrochloric acid | 1N, 100 ml | Cl | ClH
solvent | Acetone | 5 ml | CC(=O)C | C3H6O
product | α-hydroxyimino-2-(2-methylphenoxymethyl)benzyl cyanide | 1.23 g, Yield: 92.4% | ON=C(C1=C(C=CC=C1)COC1=C(C=CC=C1)C)C#N | C16H14N2O2
